US04104400
D. 4-(1,4-cyclohexadienyl)-2-imidazolidinethione
To 1 l. of liquid ammonia there is added with stirring 13.7 g of 1-phenyl-1,2-diamino ethane, dihydrochloride. Then 10 g of Li ribbon is added over a period of 15 minutes. Upon completed addition the dark blue solution is stirred for 15 minutes, after which there is added dropwise 150 ml of absolute ethanol over a period of 75 minutes. After the completed addition, the color of the mixture lightens. The ammonia is evaporated using a warm water bath. The residue is cooled and treated with water. The resulting solution is extracted with CHCl3. The dried organic extract (MgSO4) is evaporated to yield an oil which is free of dissolved ammonia. This oil is dissolved in 50 ml of CHCl3, treated with 30 ml of CS2 and refluxed on the steam bath for 20 minutes. Then 200 ml of water is added. The excess CS2 is boiled off and the remaining mixture is refluxed until no more H2S evolves (about 20 minutes). On cooling, the product separates and is filtered off, and washed with ice water to yield 11.3 g of the title D compound, m.p. 165°-167°.

reactant | ammonia | N | H3N
reactant | 1-phenyl-1,2-diamino ethane, dihydrochloride | 13.7 g | Cl.Cl.C1(=CC=CC=C1)C(CN)N
reactant | ethanol | 150 ml | C(C)O | C2H6O
reactant | H2S | S | H2S
solvent | CHCl3 | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | CS2 | C(=S)=S | CS2
solvent | water | 200 ml | O | H2O
solvent | CS2 | 30 ml | C(=S)=S | CS2
product | 4-(1,4-cyclohexadienyl)-2-imidazolidinethione | C1(=CCC=CC1)C1NC(NC1)=S | C9H12N2S
